US07737141B2
Synthesis of (3R,5S)-3-(3,4-difluorophenyl)-5-hydroxymethylmorpholine-4-carboxylic acid 9H-fluorene-9-ylmethyl ester
To a solution of {(S)-2-benzyloxy-1-[2-(3,4-difluorophenyl)-2-oxoethoxymethyl]ethyl}carbamic acid t-butyl ester (26.8 g) in ethyl acetate (50 mL) was added a 4 N hydrochloric acid/ethyl acetate solution (100 mL), and the resultant solution was stirred at room temperature for 2.5 hours. Solvent was removed by distillation under reduced pressure, and the resultant product was twice subjected to azeotropy with toluene. The resulting residue was diluted with a mixed solvent of ether/heptane (1/1, 300 mL) to form a solid. The supernatant was decanted off, and the residue solid was dried under reduced pressure. To a solution of the residue solid in methanol (200 ml) was added 10% palladium-carbon (9.1 g, 50% water content). Under a hydrogen atmosphere, this mixture was stirred for 18 hours. The catalyst was then filtered off, and the filtrate was concentrated by distillation under reduced pressure. The resulting product was then diluted with ethyl acetate and saturated sodium bicarbonate water. The organic layer was partitioned, washed with brine, and then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure. The resultant residue was diluted with tetrahydrofuran (120 mL) and saturated sodium bicarbonate water (120 mL). To this solution was added 9-fluorenylmethyl chloroformate (16.6 g) while cooling with ice. The temperature of the solution was returned to room temperature, and the solution was then stirred for 14 hours. The reaction solution was diluted with ethyl acetate and water, and the organic layer was partitioned. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure, and the resulting residue was diluted with ethyl acetate (50 mL) and heptane (5 mL). The resultant solution was then left to stand for 4 days at 4° C. The precipitated solid was collected by filtering, to thereby obtain the titled compound (7.19 g). The filtrate was purified by silica gel column chromatography (hexane/ethyl acetate 4/1→1/1), and again solidified using ethyl acetate. The titled compound (3.69 g) was collected by filtering. The physical properties of the compound were as follows.

reactant | {(S)-2-benzyloxy-1-[2-(3,4-difluorophenyl)-2-oxoethoxymethyl]ethyl}carbamic acid t-butyl ester | 26.8 g | C(C)(C)(C)OC(N[C@@H](COCC1=CC=CC=C1)COCC(=O)C1=CC(=C(C=C1)F)F)=O | C23H27F2NO5
reactant | hydrochloric acid ethyl acetate | 4 N, 100 mL | Cl.C(C)(=O)OCC
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (3R,5S)-3-(3,4-difluorophenyl)-5-hydroxymethylmorpholine-4-carboxylic acid 9H-fluorene-9-ylmethyl ester | 7.19 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1[C@@H](COC[C@@H]1CO)C1=CC(=C(C=C1)F)F | C26H23F2NO4
